Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain, fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo woman, recently immigrated from ___ in 
___, without any significant past medical history, who 
presents with worsening fever, abdominal pain, and fatigue. Ms. 
___ is accompanied by her boyfriend, ___, who provides 
much of the history as she is feeling ill. 

The patient initially started feeling poorly last ___. She 
had lower abdominal pain and lower back pain. She developed 
fevers, aches and pain and thus presented to ___ 
___ on ___. She and her boyfriend initially thought 
perhaps this was related to her stopping her birth control pills 
recently (just last month). Per her report, she was evaluated 
with an ultrasound to look for ovarian pathology and also had 
her appendix evaluated as well. These were reportedly normal. 
Before her work-up could be complete, she left AMA. She was 
discharged with a 1 week prescription for ciprofloxacin for 
presumed UTI. In discussing her care there with the patient and 
her boyfriend, they were not trustful of the provider's medical 
decision making. She also had difficulty with phlebotomy and her 
IVs and had a lot of pain from these peripheral sticks. Thus, 
when she went home, she did not take the ciprofloxacin. Instead, 
she took Nyquil and Tylenol, thinking that she had the flu. 
However, her symptoms worsened and she developed high spiking 
fevers daily. Her pain also migrated from her lower abdomen to 
her epigastric area. The pain worsened with deep breaths and 
with leaning forward. She also developed severe nausea and 
vomiting for the past 3 days and has not been able to keep 
anything down except some water. She denies any dysuria or 
urinary frequency. As she was feeling worse, she took 1 dose of 
ciprofloxacin last night. She then presented to the ED early 
this morning.

Upon arrival to the ED, she triggered for tachycardia to the 
140s. She was also febrile to 103. BP was 116/73, RR 15, O2 sat 
99% RA. Labs significant for Na 129, HCO3 18, lactate of 2, trop 
< 0.01, WBC 15.6 with 78.6% neutrophils. Urinalysis showed 2 
epi, 32 WBC, few bacteria, + nitrite. A CT scan was attempted 
but patient refused. She was treated with a total of 4L IVF 
boluses, ceftriaxone, 1g Tylenol, 4mg IV morphine, and 4mg IV 
Zofran. She was then admitted for continued medical care.

Upon arrival to the floor, patient is feeling generally unwell. 
She feels extremely tired and continues to have abdominal pain 
and nausea. 

ROS: positive per HPI, otherwise negative
 
Past Medical History:
none
 
Social History:
___
Family History:
No known family history. Her parents are alive and healthy. She 
has 2 sisters that are also healthy.
 
Physical Exam:
Admission exam:
Vitals: T 99.4 BP 110/74 HR 114 RR 18 O2 sat: 99% RA
General: tired and uncomfortable appearing young woman, in mild 
distress
HEENT: PERRL, EOMI, oropharynx is clear with dry mucous 
membranes
CV: tachycardic with II/VI flow murmur appreciated
Resp: clear bilaterally without any wheezing or rhonchi 
Abd: soft, mild TTP in the LLQ and epigastric area, no rebound 
tenderness, + bowel sounds
Ext: wwp, no edema present
Skin: no rashes noted on the extremities
Neuro: alert and oriented, CN II-XII are intact
Psych: appropriate mood and affect

Discharge exam:
Vitals: 98.2  101 / 65  97  18  99 Ra
General: well appearing young woman in no acute distress
HEENT: PERRL, EOMI, oropharynx is clear with dry mucous 
membranes
CV: r/r/r with II/VI flow murmur
Resp: clear bilaterally without any wheezing or rhonchi 
Abd: soft, nontender throughout, no rebound tenderness, + bowel 
sounds
Ext: wwp, no edema present
Skin: no rashes noted on the extremities
Neuro: alert and oriented, no facial droop
Psych: appropriate mood and affect
 
Pertinent Results:
Admission labs:
___ 03:30AM BLOOD WBC-15.6* RBC-3.88* Hgb-11.7 Hct-32.1* 
MCV-83 MCH-30.2 MCHC-36.4 RDW-11.5 RDWSD-34.0* Plt ___
___ 03:30AM BLOOD Neuts-78.6* Lymphs-7.8* Monos-12.6 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-12.25* AbsLymp-1.21 
AbsMono-1.96* AbsEos-0.00* AbsBaso-0.02
___ 03:30AM BLOOD Glucose-137* UreaN-7 Creat-0.7 Na-129* 
K-3.4 Cl-91* HCO3-18* AnGap-23*
___ 03:30AM BLOOD ALT-27 AST-31 AlkPhos-59 TotBili-0.5
___ 03:30AM BLOOD Albumin-4.0 Calcium-9.1 Phos-1.3* Mg-2.0
___ 03:47AM BLOOD Lactate-2.0
___ 06:36AM BLOOD Lactate-0.5

Discharge labs:
___ 01:10PM BLOOD WBC-11.8* RBC-3.01* Hgb-9.0* Hct-26.3* 
MCV-87 MCH-29.9 MCHC-34.2 RDW-12.1 RDWSD-39.2 Plt ___
___ 01:10PM BLOOD WBC-11.8* RBC-3.01* Hgb-9.0* Hct-26.3* 
MCV-87 MCH-29.9 MCHC-34.2 RDW-12.1 RDWSD-39.2 Plt ___
___ 06:35AM BLOOD Glucose-108* UreaN-4* Creat-0.6 Na-136 
K-3.7 Cl-102 HCO3-22 AnGap-16
___ 06:35AM BLOOD Calcium-8.1* Phos-2.6* Mg-2.0 Iron-18*
___ 06:35AM BLOOD calTIBC-196* Ferritn-608* TRF-151*

OSH urine culture ___ > 100,000 CFU e.coli 
Resistance to: ampicillin, ampicillin-sulbactam, tetracycline, 
Sulfamethoxazole / Trimethoprim, otherwise sensitive

Imaging:
___ CXR 
IMPRESSION:  
No acute cardiopulmonary process. 

___ EKG: my interpretation
Sinus rhythm, mild tachycardia to 110s, prominent P waves, 
normal axis, there are TWI in V2-V3 and T wave flattening in 
V4-V6 as well as II and III. No prior EKGs to compare to at this 
time.

___ EKG my interpretation:
Sinus rhythm, prior TWI and T wave flattening have resolved.
 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with no significant PMH who presents 
with nearly 1 week of abdominal pain and fevers, found to have 
likely pyelonephritis.

# Sepsis secondary to: 
# Pyelonephritis
Patient initially presented to ___ with fevers and 
abdominal pain and left the ED AMA. Urine culture from ___ grew 
E. Coli, however patient was non-compliant with ciprofloxacin, 
likely due to loss of confidence in her providers at ___. Of 
note, she refused a pelvic exam and refused a transvaginal 
ultrasound. She subsequently had worsening of her clinical 
symptoms including pain, fevers over next several days. Some 
symptoms on presentation to ___, such as upper abdominal pain, 
were not classic for pyelonephritis, but her high fevers to 103 
in setting of known, untreated UTI were consistent with the 
diagnosis. She refused a CT scan to confirm clinical suspicion 
and to rule out other intra-abdominal etiologies. She also 
refused another pelvic exam. She was treated with empiric 
ceftriaxone and IVF resuscitation with rapid improvement of her 
symptoms. Urine culture at ___ is pending at discharge. She 
was instructed to complete a 14 day course of ciprofloxacin for 
presumed severe pyelonephritis. 

# Chest pain / upper abdominal pain
Unclear etiology, possibly due to pyelonephritis as above. There 
is a pleuritic component to the chest pain as it worsened with 
inspiration and with movement. No e/o pericarditis on EKG. 
Patient does have a soft murmur as well as some EKG 
abnormalities, but troponin was negative x 2 and thus, not 
suggestive of true ACS. Repeat EKG showed normalization of prior 
abnormalities and thus, they were likely rate-related. CXR also 
without any acute pathology. 

# Anemia
Patient's hb dropped to 8.8 on day of discharge from admission 
hb of 11.7. Repeat in the ___ did not show any further decline. 
Reticulocyte index was low and iron studies showed low iron but 
also low TIBC and normal ferritin. Thus, anemia thought to be 
due to sepsis and marrow suppression. Recommend outpatient check 
to ensure improvement. 

# Hyponatremia
Likely due to hypovolemia in setting of severe sepsis as above; 
patient reports significantly decreased PO intake at home over 
past ___ days. Resolved with IVF.

# Hypophosphatemia
Likely due to poor PO intake. Improved with repletion. 

# Anion-gap metabolic acidosis
Anion gap of 20 on admission with normal lactate. Urine with 
ketones but blood glucose levels are relatively normal. Likely 
starvation ketosis due to lack of PO over past few days. 
Resolved with IVF and increased intake.

TRANSITIONAL ISSUES:
- to complete 14 days of ciprofloxacin for presumed, severe 
pyelonephritis
- urine culture pending at discharge
- please recheck CBC at PCP visit to ensure stability and/or 
improvement of anemia
 
Medications on Admission:
none
 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*10 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pyelonephritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you during your stay at ___ 
___ ___. You were admitted for fevers and 
abdominal pain and found to have an infection, likely 
pyelonephritis. You should complete 14 days of your antibiotic, 
ciprofloxacin. Please be sure to follow-up with your new PCP as 
listed below.

Take care, 
Your ___ Team
 
Followup Instructions:
___